US04221716
A mixture of 2.4 grams (0.01 mole) of 1-methyl-7-benzoylindoline and 8.7 grams (0.1 mol) of manganese dioxide in 25 ml of methylene chloride was heated at reflux for 18 hours. The mixture was cooled and filtered. The filtrate was concentrated and the resulting residue was distilled to give 2 grams of 1-methyl-7-benzoylindole having a b.p. of 128° C./0.03 mm Hg.

reactant | 1-methyl-7-benzoylindoline | 0.01 mole, 2.4 grams | CN1CCC2=CC=CC(=C12)C(C1=CC=CC=C1)=O | C16H15NO
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 0.1 mol, 8.7 grams | [O-2].[O-2].[Mn+4]
product | 1-methyl-7-benzoylindole | 2 grams | CN1C=CC2=CC=CC(=C12)C(C1=CC=CC=C1)=O | C16H13NO
